US04521604
A solution of 8 g (0.2 mole) of sodium hydroxide in 15 ml of water was added to a solution of 20 g (0.18 mole) of 2-methyl-piperazin-3-one in 150 ml of methylene chloride. 26.6 g (0.18 mole) of dichloroacetyl chloride were then added dropwise at from 10° to 15° C. The mixture was stirred at 25° C. for 10 hours and the precipitated crude product was filtered off with suction, washed with water and recrystallized from a 2:1 mixture of isopropanol and H2O to give 14.4 g (36% theory) of 1-dichloroacetyl-2-methyl-3-oxo-piperazine of melting point 167°-168° C.

reactant | sodium hydroxide | 0.2 mole, 8 g | [OH-].[Na+]
reactant | 2-methyl-piperazin-3-one | 0.18 mole, 20 g | CC1NCCNC1=O | C5H10N2O
reactant | dichloroacetyl chloride | 0.18 mole, 26.6 g | ClC(C(=O)Cl)Cl | C2HCl3O
solvent | water | 15 ml | O | H2O
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
product | 1-dichloroacetyl-2-methyl-3-oxo-piperazine | 14.4 g, 36% | ClC(C(=O)N1C(C(NCC1)=O)C)Cl | C7H10Cl2N2O2
